US06576652B2
Step A: Preparation of 4′-methylbiphenyl-2-carboxylic Acid
Methyl 4-methylbiphenyl-2-carboxylate (10.0 g, 44.2 mmol, 1 eq), 0.5 N KOH in methanol (265.5 ml, 133 mmol, 3 eq), and water (50 mL) were mixed and refluxed under N2. After 5 hours, the solvent was removed in ml and water (200 mL) and ethyl acetate (200 mL) added. The aqueous layer was acidified with concentrated hydrochloric acid to a pH of 3 and the layers were separated. The aqueous phase was extracted with ethyl acetate (2×200 mL), the organic layers collected, dried (MgSO4) and the solvent removed in y3=to yield 8.71 g of a white solid; m.p. 140.0°-145.0° NMR (206 MHz, DMSO-d6 δ 7.72 (d, 1H, J=7 Hz); 7.56 (t, 1H, J=7 Hz); 7.45 (d, 1H, J=7 Hz); 7.40 (t, 1H, J=7 Hz); 7.25 (9, 411); 2.36 (s, 3H). Anal. Calcd. for C14H12O2; C, 79.23; H, 5.70. Found: C, 79.22; H, 5.47.

reactant | Methyl 4-methylbiphenyl-2-carboxylate | 44.2 mmol, 10.0 g, 1 eq | CC=1C=C(C(=CC1)C1=CC=CC=C1)C(=O)OC | C15H14O2
reactant | KOH | 0.5 N | [OH-].[K+]
reactant | methanol | 133 mmol, 265.5 ml, 3 eq | CO | CH4O
solvent | water | 50 mL | O | H2O
product | 4′-methylbiphenyl-2-carboxylic Acid | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C14H12O2
